US04680299
5-Fluoroisatin (72.6 g, 0.44 mole) and 4-(2-fluorophenyl)propiophenone (100 g, 0.44 mole) were suspended in 720 ml of ethanol and stirred mechanically as a solution of KOH (147.8 g, 2.64 mole) in 300 ml of water was added dropwise over 15 minutes. The reaction mixture was heated at reflux for 12 hours, cooled and the ethanol evaporated under reduced pressure. The resulting solid was dissolved in water and washed with ethyl ether. The aqueous layer was cooled to 5° and acidified with glacial acetic acid. The resulting precipitate was filtered, washed 2 times with 300 ml of ethyl ether and dried. Recrystallization from dimethylformamide and water gave 84 g of a white 2-(2'-Fluoro-1,1'-biphenyl-4-yl)-6-fluoro-3-methyl-4-quinolinecarboxylic acid, m.p. 315°-317°.

reactant | 5-Fluoroisatin | 0.44 mole, 72.6 g | FC=1C=C2C(C(NC2=CC1)=O)=O | C8H4FNO2
reactant | 4-(2-fluorophenyl)propiophenone | 0.44 mole, 100 g | CCC(=O)C1=CC=C(C=C1)C2=CC=CC=C2F | C15H13FO
reactant | KOH | 2.64 mole, 147.8 g | [OH-].[K+]
solvent | ethanol | 720 ml | C(C)O | C2H6O
solvent | water | 300 ml | O | H2O
product | 2-(2'-Fluoro-1,1'-biphenyl-4-yl)-6-fluoro-3-methyl-4-quinolinecarboxylic acid | 84 g | FC1=C(C=CC=C1)C1=CC=C(C=C1)C1=NC2=CC=C(C=C2C(=C1C)C(=O)O)F | C23H15F2NO2
